US05021429
N-Methyl-N'-[3-[3-(N,N-dimethylaminomethyl)phenoxy]propyl]urea
Methyl isocyanate (0.27 ml) and 3-(3-aminopropoxy)-N,N-dimethylbenzenemethanamine (0.97 g) were stirred at room temperature in acetonitrile for 2 hours. The title compound was filtered off, washed with acetonitrile and recrystallised from ethyl acetate as colourless prisms (0.49 g) m.p. 79.5°-80°. TLC silica; methanol:0.88 ammonia (80:1) Rf 0.45.

reactant | Methyl isocyanate | 0.27 ml | CN=C=O | C2H3NO
reactant | 3-(3-aminopropoxy)-N,N-dimethylbenzenemethanamine | 0.97 g | NCCCOC=1C=C(C=CC1)CN(C)C | C12H20N2O
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Methyl-N'-[3-[3-(N,N-dimethylaminomethyl)phenoxy]propyl]urea | CNC(=O)NCCCOC1=CC(=CC=C1)CN(C)C | C14H23N3O2
